* Four resistors, two current sources, and a voltage source.
R1 1 0 0.015Meg
R2 2 0 8.2e3
R3 3 1 1.1meg
R4 4 2 22.2k
Ix 1 2 1310u ; current source
Iy 4 3 19n; another current source
Vz 4 2 104.5M; voltage source
